US07795236B2
4-(Pyridine-4-yl)benzonitrile
The title compound was prepared in a similar manner to that described in Reference Example 11 using 4-bromopyridine hydrochloride instead of 1-bromo-3-pentyloxybenzene and 4-cyanophenylboronic acid instead of tert-butyl N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-benzyl]carbamate.

reactant | 4-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-(Pyridine-4-yl)benzonitrile | N1=CC=C(C=C1)C1=CC=C(C#N)C=C1 | C12H8N2
